US05360802
Step 3: 5-Cyclopentyl-1,3-dihydro-1-propyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin2-one
The title compound was prepared from 3(R,S)-amino-5-cyclopentyl-1,3-dihydro-1-propyl-2H-1,4-benzodiazepin-2-one (321 mg, 11.2 mmol) and 4-nitrophenyl chloroformate (229 mg, 11.4 mmol) using the procedure described in Example 20, Step 1. The crude product was triturated with ether (10 ml) to give the title compound (396 mg, 78%) as a white solid. 1H NMR (360 MHz, CDCl3) 0.83 (3H, t, J=7.4 Hz), 1.33-1.82 (8H, m), 1.97 (1H, m), 2.15 (1H, m), 3.34 (1H, m), 3.60 (1H, m), 4.32 (1H, m), 5.16 (1H, d, J=8.3 Hz), 6.89 (1H, d, J=8.4 Hz), 7.30-7.37 (4H, m), 7.52 (1H, t of d, J=7.8 and 1.6 Hz), 7.59 (1H, dd, J=7.8 and 1.5 Hz), 8.22 (2H, d, J=9.2 Hz).

reactant | 3(R,S)-amino-5-cyclopentyl-1,3-dihydro-1-propyl-2H-1,4-benzodiazepin-2-one | 11.2 mmol, 321 mg | NC1C(N(C2=C(C(=N1)C1CCCC1)C=CC=C2)CCC)=O | C17H23N3O
reactant | 4-nitrophenyl chloroformate | 11.4 mmol, 229 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
product | 5-Cyclopentyl-1,3-dihydro-1-propyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin2-one | 396 mg, 78% | C1(CCCC1)C1=NC(C(N(C2=C1C=CC=C2)CCC)=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C24H26N4O5
